US04448965
In the same manner, 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid fluoride is reacted with the thallium salt of cyclobutane-1,3-dione to yield 2-[[2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl]]cyclobutane-1,3-dione (V; Y is H, Z is CF3, R1 is CH3 and n is zero).

reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid fluoride | FC(C1=CC=C(OC2=CC=C(OC(C(=O)F)C)C=C2)C=C1)(F)F | C16H12F4O3
reactant | thallium | [Tl] | Tl
reactant | cyclobutane-1,3-dione | C1(CC(C1)=O)=O | C4H4O2
product | 2-[[2-[4-(4-trifluoromethylphenoxy)phenoxy]propionyl]]cyclobutane-1,3-dione | FC(C1=CC=C(OC2=CC=C(OC(C(=O)C3C(CC3=O)=O)C)C=C2)C=C1)(F)F | C20H15F3O5
